US06565829B2
Step 2: Preparation of N-methyl-2-[2-methyl-5-(phenylsulfonyl)-1H-indol-3-yl]ethanamine
A solution of tert-butyl 2-[2-methyl-5-(phenylsulfonyl)-1H-indol-3-yl]ethylcarbamate (0.46 g, 1.10 mmol) in THF (2.0 mL) was added to a slurry of LiAlH4 (0.47 g, 12.3 mmol) in THF (4.0 mL) and the mixture was heated to reflux for 6.5 hours. The reaction was cooled to room temperature and quenched with water (12.0 mL) and 15% NaOH (12.0 mL). The mixture was filtered through diatomaceous earth and the filtrate was concentrated in vacuo. The residue was extracted with CH2Cl2, dried over MgSO4 and concentrated in vacuo and recrystallized from EtOAc/hexane to give 0.17 g (46%) of a white solid as the title compound: mp 164.6-166.0° C.; 1H NMR (400 MHz, Acetone-d6) δ 8.20 (d, J=1.6 Hz, 1H), 7.97-7.95 (m, 2H), 7.59-7.52 (m, 4H), 7.42 (d, J=8.6 Hz, 1H), 2.93-2.90 (m, 2H), 2.78-2.74 (m, 2H), 2.41 (s, 3H), 2.36 (s, 3H); 13C NMR (100 MHz, Acetone-d6) δ 145.0, 138.6, 135.9, 133.3, 132.4, 130.0, 129.5, 127.9, 120.3, 119.6, 111.8, 53.5, 36.7, 25.2, 11.6; IR (diffuse reflectance) 3028, 3021, 2939, 2909, 2870, 2843, 1449, 1307, 1301, 1152, 1087, 750, 719, 692, 623 cm−1; HRMS (FAB) calcd for C18H20N2O2S+H 329.1324, found 329.1326; Anal. Calcd for C18H20N2O2S: C, 65.83; H, 6.14; N, 8.53. Found: C, 65.47; H, 6.21; N, 8.38.

reactant | tert-butyl 2-[2-methyl-5-(phenylsulfonyl)-1H-indol-3-yl]ethylcarbamate | 1.10 mmol, 0.46 g | CC=1NC2=CC=C(C=C2C1CCNC(OC(C)(C)C)=O)S(=O)(=O)C1=CC=CC=C1 | C22H26N2O4S
reactant | LiAlH4 | 12.3 mmol, 0.47 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
product | N-methyl-2-[2-methyl-5-(phenylsulfonyl)-1H-indol-3-yl]ethanamine | 0.17 g, 46% | CNCCC1=C(NC2=CC=C(C=C12)S(=O)(=O)C1=CC=CC=C1)C | C18H20N2O2S
